### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation): embedding of valuation groups

### PR DESCRIPTION
**Pull request by plp127**
We show that if `vR` and `vA` are valuations satisfying `vR.HasExtension vA`, then there is an induced embedding of the valuation groups compatible with the valuations and with the extension.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 1]
```diff
@@ -213,6 +213,43 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+    rw [MonoidWithZeroHom.mem_valueGroup_iff_of_comm] at hr ⊢
+    obtain ⟨a, ha0, x, hr⟩ := hr
+    exact ⟨algebraMap R A a, ha0, algebraMap R A x, hr⟩
+  · refine (WithZero.map'_strictMono ?_).comp h.orderMonoidIso.toOrderIso.strictMono
+    intro a b hab
+    simpa [← Subtype.coe_lt_coe] using hab
+  · ext x
+    simp only [OrderMonoidIso.toMulEquiv_eq_coe, map_apply,
+      MonoidWithZeroHom.comp_apply, comap_apply]
+    erw [MulEquiv.toMonoidWithZeroHom_apply, OrderMonoidIso.coe_mulEquiv, h.orderMonoidIso_spec x]
```
Comment (plp127) [inline Mathlib/RingTheory/Valuation/Extension.lean]: The reason for `erw` is that `Valuation.IsEquiv.orderMonoidIso` uses `MonoidWithZeroHom.ValueGroup₀ v` but `Valuation.restrict` uses `MonoidWithZeroHom.ValueGroup₀ (MonoidWithZeroHomClass.toMonoidWithZeroHom v)`. See [#mathlib4 > Mathlib's morphism hierarchy @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Mathlib.27s.20morphism.20hierarchy/near/554383157).

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 2]
```diff
@@ -213,6 +213,43 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
 
 end AlgebraInstances
 
+section ValueGroup₀
+
+variable {ΓR ΓA : Type*}
+    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) [vR.HasExtension vA]
+
+theorem exists_monoidWithZeroHom_valueGroup₀_restrict_eq :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Extension.lean:222]: Is the map unique? It seems so.

Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean:222]: It seems to be unique. Should I prove uniqueness as well? Or should I prove a single `ExistsUnique` theorem maybe?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Valuation/Extension.lean:222]: If it's unique I think a `def` is better (proving that any other map with the relevant properties equals the `def`). It also respect the order, right?

**Comment by faenuccio** [comment]
Thanks! I think this is all good, I'm just postponing it a little bit to avoid conflicts with #40309 : I'm quite sure that there will be none, but it's safer to wait a bit.

**Comment by riccardobrasca** [comment]
@faenuccio what is the situation here?

**Comment by riccardobrasca** [comment]
LGTM. @faenuccio any thoughts?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 3]
```diff
@@ -212,6 +224,98 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
 
 end AlgebraInstances
 
+section ValueGroup₀
+
+variable {ΓR ΓA : Type*}
+    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) [vR.HasExtension vA]
+
+/-- The map of valuation groups induced by a valuation extension. -/
```
Comment (plp127) [inline Mathlib/RingTheory/Valuation/Extension.lean:234]: I'm not to familiar with the terminology, should this be "value group" instead?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Valuation/Extension.lean:234]: Wikipedia [says](https://en.wikipedia.org/wiki/Valuation_(algebra)) "the value group or valuation group ..." so I guess both are fine.

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 4]
```diff
@@ -98,6 +98,18 @@ instance id : vR.HasExtension vR where
   val_isEquiv_comap := by
     simp only [Algebra.algebraMap_self, comap_id, IsEquiv.refl]
 
+theorem comp {R A B ΓR ΓA ΓB : Type*} [CommRing R] [CommRing A] [Ring B]
+    [LinearOrderedCommMonoidWithZero ΓR] [LinearOrderedCommMonoidWithZero ΓA]
+    [LinearOrderedCommMonoidWithZero ΓB] [Algebra R A] [Algebra A B] [Algebra R B]
+    [IsScalarTower R A B]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) (vB : Valuation B ΓB)
+    [vR.HasExtension vA] [vA.HasExtension vB] : vR.HasExtension vB where
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]: theorem comp {A B ΓB : Type*} [CommRing A] [Ring B]
    [LinearOrderedCommMonoidWithZero ΓB] [Algebra R A] [Algebra A B] [Algebra R B]
    [IsScalarTower R A B] (vR : Valuation R ΓR) (vA : Valuation A ΓA) (vB : Valuation B ΓB)
    [vR.HasExtension vA] [vA.HasExtension vB] : vR.HasExtension vB where
```suggestion
theorem comp {R A B ΓR ΓA ΓB : Type*} [CommRing R] [CommRing A] [Ring B]
    [LinearOrderedCommMonoidWithZero ΓR] [LinearOrderedCommMonoidWithZero ΓA]
    [LinearOrderedCommMonoidWithZero ΓB] [Algebra R A] [Algebra A B] [Algebra R B]
    [IsScalarTower R A B] (vR : Valuation R ΓR)(vB : Valuation B ΓB)
    [vR.HasExtension vA] [vA.HasExtension vB] : vR.HasExtension vB where
```

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 5]
```diff
@@ -212,6 +224,98 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
 end AlgebraInstances
 
+section ValueGroup₀
+
+variable {ΓR ΓA : Type*}
+    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) [vR.HasExtension vA]
+
+/-- The map of valuation groups induced by a valuation extension. -/
+noncomputable def mapValueGroup₀ :
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean:235]: Can't you `open MonoidWithZeroHom in` to make this slightly lighter?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 6]
```diff
@@ -212,6 +224,98 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+  simp
+
+section tower
+variable {R A B ΓR ΓA ΓB : Type*}
+    [CommRing R] [CommRing A] [Ring B] [Algebra R A] [Algebra A B] [Algebra R B]
+    [IsScalarTower R A B]
+    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
+    [LinearOrderedCommGroupWithZero ΓB]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) (vB : Valuation B ΓB)
+    [vR.HasExtension vA] [vA.HasExtension vB]
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]: variable {A B ΓR ΓA ΓB : Type*} [CommRing A] [Ring B] [Algebra R A] [Algebra A B] [Algebra R B]
    [IsScalarTower R A B] [LinearOrderedCommGroupWithZero ΓA]
    [LinearOrderedCommGroupWithZero ΓB] (vA : Valuation A ΓA) (vB : Valuation B ΓB)
    [vR.HasExtension vA] [vA.HasExtension vB]
```suggestion
variable {R A B ΓR ΓA ΓB : Type*}
    [CommRing R] [CommRing A] [Ring B] [Algebra R A] [Algebra A B] [Algebra R B]
    [IsScalarTower R A B]
    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
    [LinearOrderedCommGroupWithZero ΓB]
    (vR : Valuation R ΓR) (vA : Valuation A ΓA) (vB : Valuation B ΓB)
    [vR.HasExtension vA] [vA.HasExtension vB]
```

**Review by faenuccio — COMMENTED** [review]
Thanks, I left some minor cosmetic comment. 

I wonder if there is no way to improve the call
`have h : vR.IsEquiv (vA.comap (algebraMap R A)) := HasExtension.val_isEquiv_comap`
which "feels like instance synthesis is not firing": this is certainly not the case, as `valuation.isEquiv` is a `def` and not a `class`, but "morally" I'd be able to avoid calling this out explicitely...

**Comment by riccardobrasca** [comment]
@faenuccio if you don't have any other comment I would merge this...

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 7]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
 
+section ValueGroup₀
+
+variable {ΓR ΓA : Type*}
+    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) [vR.HasExtension vA]
+
+open MonoidWithZeroHom in
+/-- The map of valuation groups induced by a valuation extension. -/
+noncomputable def mapValueGroup₀ :
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean:244]: Given the current state of assumptions for `Valuation.IsEquiv.orderMonoidIso.toMonoidWithZeroHom`, the assumption that both `ΓR` and `ΓA` be group (rather than monoid) with zero is forced, but this seems unreasonable from the mathematical point of view, at least concerning `ΓR`. Can you add a todo?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 8]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+
+theorem mapValueGroup₀_monotone : Monotone (mapValueGroup₀ vR vA) :=
+  (mapValueGroup₀_strictMono vR vA).monotone
+
+theorem restrict_map_mapValueGroup₀ :
+    vR.restrict.map (mapValueGroup₀ vR vA) (mapValueGroup₀_monotone vR vA) =
+      vA.restrict.comap (algebraMap R A) := by
+  ext x
+  have h : vR.IsEquiv (vA.comap (algebraMap R A)) := HasExtension.val_isEquiv_comap
+  unfold mapValueGroup₀
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean:269]: This `unfold` seems to show that there is some `defeq` issue going on or, most likely, that we're missing the right simp lemma. In fact, you can either add this call to the following `simp only` or, better, add a `simp`-lemma `mapValueGroup₀_def` and add that one.

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 9]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+  simp only [OrderMonoidIso.toMulEquiv_eq_coe, map_apply,
+    MonoidWithZeroHom.comp_apply, comap_apply]
+  rw [MulEquiv.toMonoidWithZeroHom_apply, OrderMonoidIso.coe_mulEquiv, h.orderMonoidIso_spec x]
+  generalize hc : (vA.comap (algebraMap R A)).restrict x = c
+  cases c using WithZero.cases_on with
+  | zero =>
+    rw [restrict_eq_zero_iff, comap_apply, ← restrict_eq_zero_iff] at hc
+    rw [hc]
+    apply WithZero.map'_zero
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion
    simp [hc]
```

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 10]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+  | coe c =>
+    rw [← MonoidWithZeroHom.ValueGroup₀.embedding_strictMono.injective.eq_iff,
+      Valuation.embedding_restrict] at hc ⊢
+    rw [← comap_apply, hc]
+    rfl
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]: Don't you miss a `rfl` lemma saying what `MonoidWithZeroHom.ValueGroup₀.embedding` does? This final `rfl` simply prove this, but the result should be encoded (and tagged simp) somewhere, no?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 11]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+
+theorem mapValueGroup₀_apply_restrict (x : R) :
+    mapValueGroup₀ vR vA (vR.restrict x) = vA.restrict (algebraMap R A x) :=
+  congrFun (congrArg DFunLike.coe (restrict_map_mapValueGroup₀ vR vA)) x
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]:
```suggestion
  congrFun (congrArg DFunLike.coe (restrict_map_mapValueGroup₀ vR vA)) x
```
This `congrFun` followed by `congrArg` is a bit smelly, basically you're going back and forth twice.

This closes it
```
congr($(restrict_map_mapValueGroup₀ vR vA) x)
```

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 12]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+
+theorem mapValueGroup₀_uniq (m : type_of% (mapValueGroup₀ vR vA))
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean:288]: Why do you want to keep `m` explicit?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 13]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
 end AlgebraInstances
 
+section ValueGroup₀
+
+variable {ΓR ΓA : Type*}
+    [LinearOrderedCommGroupWithZero ΓR] [LinearOrderedCommGroupWithZero ΓA]
+    (vR : Valuation R ΓR) (vA : Valuation A ΓA) [vR.HasExtension vA]
+
+open MonoidWithZeroHom in
+/-- The map of valuation groups induced by a valuation extension. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]: Can you add this to the module docstring?

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 14]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+  rw [← hrs, map_div₀, map_div₀, hm, hm,
+    mapValueGroup₀_apply_restrict, mapValueGroup₀_apply_restrict]
+
+@[simp]
+theorem mapValueGroup₀_self : mapValueGroup₀ vR vR = .id .. := by
+  apply mapValueGroup₀_uniq
+  simp
+
+section tower
+variable {A B ΓR ΓA ΓB : Type*}
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]: The three variables `ΓR` (with its class) and `vR.HasExtension vA` are redundant.

File: Mathlib/RingTheory/Valuation/Extension.lean [hunk 15]
```diff
@@ -212,6 +224,99 @@ lemma algebraMap_residue_eq_residue_algebraMap (x : K₀) :
...
+    (mapValueGroup₀ vA vB).comp (mapValueGroup₀ vR vA) = mapValueGroup₀ vR vB := by
+  have := HasExtension.comp vR vA vB
+  symm
+  apply mapValueGroup₀_uniq
+  simp [mapValueGroup₀_apply_restrict, ← IsScalarTower.algebraMap_apply]
+
+theorem mapValueGroup₀_mapValueGroup₀ (x) :
+    haveI := HasExtension.comp vR vA vB
+    (mapValueGroup₀ vA vB) (mapValueGroup₀ vR vA x) = mapValueGroup₀ vR vB x :=
+  congrFun (congrArg DFunLike.coe (mapValueGroup₀_comp_mapValueGroup₀ vR vA vB)) x
```
Comment (faenuccio) [inline Mathlib/RingTheory/Valuation/Extension.lean]: Is there a way to golf this call using `congr()`?

**Review by faenuccio — COMMENTED** [review]
Thanks, I've left some comments.

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 7 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean:244]: I'm not too familiar with the mathematics here. Is the TODO supposed to be that `ΓR` can be generalized to a monoid and `ΓA` is still being a group?

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 12 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean:288]: I've found it useful in uniqueness lemmas like this to keep it explicit, so you don't have to use a type annotation to specify.

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 10 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean]: I think this was done before #36911, so it used to be that the lemma for `MonoidWithZeroHom.ValueGroup₀.embedding` didn't work because of the defeq issue, but now it is fine.

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 14 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean]: The three variables `ΓR`, `[LinearOrderedCommGroupWIthZero ΓR]`, and `vR` are redundant, but `vR.HasExtension vA` is not since we are redeclaring `A` (to make it commutative) and so `ΓA` and `vA` and everything that depends on them also need to be redeclared.

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 8 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean:269]: Surely it's fine to unfold `mapValueGroup₀` inside theorems proving its API? I don't think we should want such a `mapValueGroup₀_def` lemma, since it's characterized by the much nicer property `mapValueGroup₀_uniq`. I've decided against making `mapValueGroup₀_apply_restrict` since it's not immediately clear to me which side is simpler.

Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean:269]: It is also intentionally not exposed, since it should not be useful to unfold its definition, you should use the API instead.

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/RingTheory/Valuation/Extension.lean:244]: Exactly

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/RingTheory/Valuation/Extension.lean:269]: Oh, I did not notice that the `def` is unexposed, this is nice. Then I agree that it's fine to `unfold` in the proof, but can you add a sentence in the definition's doc clarifying that it is *not* exposed and that users should rely on the following lemmas?

**Comment by faenuccio** [comment]
Thanks! Since the only two final required modifications are documentations, I'm happy to delegate.

bors d+

File: Mathlib/RingTheory/Valuation/Extension.lean (hunk 8 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Extension.lean:269]: I'm also not sure about adding explicitly to the definition docstring that it is not exposed, since this doesn't seem to contribute to the purpose of the docstring which is explaining what is this definition and how to use it. I will add a sentence about the characterizing lemmas to the definition docstring and the module docstring.

Comment (faenuccio) [reply Mathlib/RingTheory/Valuation/Extension.lean:269]: I think adding the description about exposition would be welcome, on the other hand. Please add it — thanks!
